US06906063B2
Preparation of 5-chloro-2-(4-{[5-(5-chloro(2-thienyl))(4H-1,2,4-triazol-3-yl)]amino}-2-methylphenyl)benzo[c]azoline-1,3-dione
To a suspension of (5-chloro(2-thienyl))-N-({[4-(5-chloro-1,3-dioxobenzo[c]azolin-2-yl)-3-methylphenyl]amino}thioxomethyl)carboxamide (15 mg, 0.030 mmol) and hydrazine dihydrochloride (4 mg, 0.038 mmol) in DMF (0.3 mL) was added HgO (7 mg, 0.032 mmol). The reaction was stirred at room temp for 17 hr, and HPLC purified to give the desired product 5-chloro-2-(4-{[5-(5-chloro(2-thienyl))(4H-1,2,4-triazol-3-yl)]amino}-2-methylphenyl)benzo[c]azoline-1,3-dione (2 mg) (ES-MS (M+H)+=470, 472) and the aminoguanidine intermediate N-((1E)-2-aza-1-{[4-(5-chloro-1,3-dioxobenzo[c]azolidin-2-yl)-3-methylphenyl]amino}-2-aminovinyl)(5-chloro(2-thienyl))carboxamide (2 mg) ES-MS (M+H)+=488, 490 (2Cl).

reactant | (5-chloro(2-thienyl))-N-({[4-(5-chloro-1,3-dioxobenzo[c]azolin-2-yl)-3-methylphenyl]amino}thioxomethyl)carboxamide | 0.030 mmol, 15 mg | ClC1=CC=C(S1)C(=O)NC(=S)NC1=CC(=C(C=C1)N1C(C2=C(C1=O)C=C(C=C2)Cl)=O)C | C21H13Cl2N3O3S2
reactant | hydrazine dihydrochloride | 0.038 mmol, 4 mg | Cl.Cl.NN
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-(4-{[5-(5-chloro(2-thienyl))(4H-1,2,4-triazol-3-yl)]amino}-2-methylphenyl)benzo[c]azoline-1,3-dione | 2 mg | ClC1=CC2=C(C(N(C2=O)C2=C(C=C(C=C2)NC2=NN=C(N2)C=2SC(=CC2)Cl)C)=O)C=C1 | C21H13Cl2N5O2S
